US05015653
A mixture of (S)-5-[[(4-methylphenyl)sulfonyl]methyl]-1-(phenylmethyl)-2-pyrrolidinone (244.5 g, 0.68 mol), sodium iodide (305 g, 2.03 mol), and 3 L of acetone was refluxed and stirred overnight. The suspension was cooled to 10° C. and was filtered. The salts were rinsed with three 250-mL portions of acetone, and the acetone washes and filtrate were concentrated on a rotary evaporator to a thick slurry. Methylene chloride (1.5 L) was added and the white precipitate was filtered off and washed with methylene chloride. The filtrate was dried over magnesium sulfate (MgSO4), filtered through a pad of silica gel, and concentrated on a rotary evaporator to give 196.8 g (92% yield) of (S)-5-iodomethyl-1-(phenylmethyl)-2-pyrrolidinone as an off-white solid, mp 92°-94° C. (cyclohexane). 1 h NMR (CDCl3) δ 1.7-2.75 (m, 4 H, CH2), 3.18-3.28 (m, 2 H, CH2I), 3.42 (m, 1 H, NCH), 3.98 and 4.05 (AB, 2 H, Jgem =15 Hz, CH2Ph), 7.20 (m, 5 H, phenyl). [α]25D =+12.11 (c 0.35, methanol). Anal. Calcd for C12H14NOI: C, 45.73; H, 4.48; N, 4.44. Found: C, 45.58; H, 4.35; N, 4.22.

reactant | (S)-5-[[(4-methylphenyl)sulfonyl]methyl]-1-(phenylmethyl)-2-pyrrolidinone | 0.68 mol, 244.5 g | CC1=CC=C(C=C1)S(=O)(=O)C[C@@H]1CCC(N1CC1=CC=CC=C1)=O | C19H21NO3S
reactant | sodium iodide | 2.03 mol, 305 g | [I-].[Na+]
reactant | acetone | 3 L | CC(=O)C | C3H6O
solvent | cyclohexane | C1CCCCC1 | C6H12
product | (S)-5-iodomethyl-1-(phenylmethyl)-2-pyrrolidinone | 196.8 g, 92% yield | IC[C@@H]1CCC(N1CC1=CC=CC=C1)=O | C12H14INO
